US06093718
A solution of 4,6-dichloropyrimidine (3.60 g), 1-(tert-butoxycarbonyl)-4-(-4-piperidylcarbonyl)piperazine (6.00 g) and sodium hydrogen carbonate (4.20 g) in ethanol (100 ml) was heated at reflux for 6 hours. Solvent was evaporated and the residue dissolved in ethyl acetate and washed with water, dried (Na2SO4) and evaporated. The residue was recrystallised from ethyl acetate to give, as a solid 1-(tert-butoxycarbonyl)-4-[1-(6-chloro-pyrimidin-4-yl)-piperidin-4-ylcarbonyl]piperazine (7.40 g).

reactant | 4,6-dichloropyrimidine | 3.60 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 1-(tert-butoxycarbonyl)-4-(-4-piperidylcarbonyl)piperazine | 6.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CCNCC1 | C15H27N3O3
reactant | sodium hydrogen carbonate | 4.20 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(tert-butoxycarbonyl)-4-[1-(6-chloro-pyrimidin-4-yl)-piperidin-4-ylcarbonyl]piperazine | 7.40 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C1=NC=NC(=C1)Cl | C19H28ClN5O3
